US08633182B2
Step 1. 4-Nitro-3,5,N-trimethyl-benzamide
3,5-Dimethyl-4-nitrobenzoic acid (1 g, 5.12 mmol) is suspended in dry tetrahydrofuran (10 mL) and 1,1′-carbonyldiimidazole (0.91 g, 5.64 mmol) is added. The mixture is stirred for 3 hours then methylamine (2 M solution in tetrahydrofuran, 7.7 mL, 15.4 mmol) is added and the mixture stirred for 30 minutes. The solvent is removed, the residue suspended in EtOAc and washed with 0.2 M aqueous HCl solution, saturated sodium bicarbonate solution and brine, dried and the solvent removed under vacuum to give the title compound (Yield 1.0 g).

reactant | 3,5-Dimethyl-4-nitrobenzoic acid | 5.12 mmol, 1 g | CC=1C=C(C(=O)O)C=C(C1[N+](=O)[O-])C | C9H9NO4
reactant | 1,1′-carbonyldiimidazole | 5.64 mmol, 0.91 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | methylamine | 15.4 mmol, 2 M, 7.7 mL | CN | CH5N
solvent | tetrahydrofuran | 10 mL | O1CCCC1 | C4H8O
product | 4-Nitro-3,5,N-trimethyl-benzamide | Yield 1.0 g | [N+](=O)([O-])C1=C(C=C(C(=O)NC)C=C1C)C | C10H12N2O3
